US09340506B2
Methyl 2-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]-4,5,6,7-tetrahydro-1,3-benzothiazole-6-carboxylate
The compound of example A6 was obtained by similar method described in example A1 using 2-(4-cyclopropanesulfonyl-phenyl)-2-[(tetrahydro-pyran-4-yloxy)]-acetic acid (Preparation 4, 0.340 g, 1.0 mmol), 2-Amino-4,5,6,7-tetrahydro-benzothiazole-6-carboxylic acid ethyl ester (Preparation 49; 0.286 g, 1.0 mmol), HOBt (0.162 g, 1.2 mmol), and EDCl (0.229 g, 1.2 mmol), N-methyl morpholine (0.36 g, 3.58 mmol) in DMF (6 mL) to provide the title compound (0.22 g).

reactant | 2-(4-cyclopropanesulfonyl-phenyl)-2-[(tetrahydro-pyran-4-yloxy)]-acetic acid | 1.0 mmol, 0.340 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | 2-Amino-4,5,6,7-tetrahydro-benzothiazole-6-carboxylic acid ethyl ester | 1.0 mmol, 0.286 g | C(C)OC(=O)C1CC2=C(N=C(S2)N)CC1 | C10H14N2O2S
reactant | HOBt | 1.2 mmol, 0.162 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 1.2 mmol, 0.229 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl morpholine | 3.58 mmol, 0.36 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | Methyl 2-[[2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetyl]amino]-4,5,6,7-tetrahydro-1,3-benzothiazole-6-carboxylate | 0.22 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC2=C(N1)CCC(C2)C(=O)OC)OC2CCOCC2 | C25H30N2O7S2
